US04621084
A solution of 7-methyl-2-(4-aminophenyl)imidazo-[1,2-a]pyridine (14.9 g) and methyl isothiocyanate (6.4 g) in dimethyl sulfoxide (400 ml) was stirred at 50° C. for 10 hours. The reaction mixture was poured into water (1 l) and the resultant precipitate was collected by filtration, washed with water and ethyl acetate successively and dried over phosphorus pentoxide to give 7-methyl-2-[4-(3-methylthioureido)-phenyl]imidazo[1,2-a]pyridine (16.2 g).

reactant | 7-methyl-2-(4-aminophenyl)imidazo-[1,2-a]pyridine | 14.9 g | CC1=CC=2N(C=C1)C=C(N2)C2=CC=C(C=C2)N | C14H13N3
reactant | methyl isothiocyanate | 6.4 g | CN=C=S | C2H3NS
reactant | water | 1 l | O | H2O
solvent | dimethyl sulfoxide | 400 ml | CS(=O)C | C2H6OS
product | 7-methyl-2-[4-(3-methylthioureido)-phenyl]imidazo[1,2-a]pyridine | 16.2 g | CC1=CC=2N(C=C1)C=C(N2)C2=CC=C(C=C2)NC(=S)NC | C16H16N4S
